US07094778B2
A mixture of 10 g 4-{4-[5-(4-methanesulfonyl-phenyl)-4-methyl-2-oxo-oxazolidin-3-yl]-butyl}-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester, 1 g of 20% palladium hydroxide on carbon, 10 ml water, and 90 ml isopropanol was stirred and heated to 50°–60° C. A solution of 3.5 g potassium formate in 5 ml water was slowly added. The mixture was stirred for 3 hours and was then cooled and filtered. The filtrate was stripped to yield ca. 9 g of 4-{4-[2-(4-methanesulfonyl-phenyl)-1-methyl-ethylamino]-butyl}-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester.

reactant | 4-{4-[5-(4-methanesulfonyl-phenyl)-4-methyl-2-oxo-oxazolidin-3-yl]-butyl}-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 10 g | C(C)(C)(C)OC(=O)N1CCN(C(CC1)=O)CCCCN1C(OC(C1C)C1=CC=C(C=C1)S(=O)(=O)C)=O | C25H37N3O7S
reactant | isopropanol | 90 ml | C(C)(C)O | C3H8O
reactant | potassium formate | 3.5 g | C(=O)[O-].[K+]
solvent | water | 5 ml | O | H2O
catalyst | palladium hydroxide on carbon | 1 g | [OH-].[OH-].[Pd+2]
solvent | water | 10 ml | O | H2O
product | 4-{4-[2-(4-methanesulfonyl-phenyl)-1-methyl-ethylamino]-butyl}-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | ca. 9 g | C(C)(C)(C)OC(=O)N1CCN(C(CC1)=O)CCCCNC(CC1=CC=C(C=C1)S(=O)(=O)C)C | C24H39N3O5S
